### ISSUE TITLE
Exploring reduced language surface to further simplify semantics

### ISSUE THREAD

**Issue by christaylor98** [axis-foundation/axis-research#1]
### **Summary**

This issue proposes an initial exploration into simplifying the Axis language surface as we move from **Spec v0.4 → v0.5**. The goal is to identify and remove constructs that introduce semantic or implementation complexity without providing essential expressive power.

This aligns with Axis’s design philosophy:

* minimal syntax
* explicit semantics
* deterministic evaluation
* AI-first reasoning clarity

This issue focuses strictly on **clarifying and reducing the core primitives** before deeper semantics are added.

---

### **Motivation**

Axis is an **AI-native semantic substrate**. A smaller, more atomic set of constructs helps:

* prevent semantic drift
* reduce the burden on future formal semantics
* simplify AI generation and translation
* ensure contracts and bridges remain unambiguous
* enforce determinism across backends

Early refinement now avoids future technical debt as the spec grows.

---

### **Scope**

This issue evaluates whether Axis should reduce or simplify:

* overlapping syntactic constructs
* optional sugar that complicates parsing or AI reasoning
* expression forms that create multiple ways to represent the same intent
* early constructs that might not belong in the minimal core

This exploration does **not** introduce new semantics yet — it only rationalizes what already exists or is planned in the immediate next iteration.

---

### **Benefits**

* A cleaner, more principled base language
* Easier progression into future formal semantics
* Reduced complexity for the introductory compiler prototype
* More deterministic AI generation
* A clear foundation before advanced sections (typing, evaluation, memory) are added

---

### **Risks & Considerations**

* Some constructs removed here may need reintroduction in a refined form later
* Examples in the repository may require updates
* Must confirm that simplification does not reduce the expressiveness required for upcoming spec sections

---

### **Deliverables (Adjusted to Current Repo State)**

The following deliverables reflect what is possible at the current stage of the project:

* [ ] Identify candidate constructs for removal or simplification
* [ ] Document the reasoning for each candidate (inline notes or `/notes/` folder)
* [ ] Prepare a minimal, clean foundation for the next spec section (Types / Static Semantics)
* [ ] Create PR for **Axis Spec v0.5** linked to this issue

---

### **Next Steps**

Discussion is open.
After feedback, the simplification proposal will be merged into the **v0.5 spec update** via a PR.

**Comment by christaylor98** [comment]
The emphasis in this update is to ensure we have the best possible pathway toward formal validation of the language. This is the real reason behind the split between the Core Language and the Full Surface Language.

The Core is deliberately tiny, rigid, and algebraic. It contains only the constructs that are absolutely necessary for computation and that admit complete, machine-checkable formal reasoning. Every rule in the core is designed to be expressible in a proof assistant, to support subject reduction and progress, and to map cleanly to deterministic evaluation semantics. The guiding principle is:
if it cannot be proven correct, it does not belong in the core.

The Full Language, by contrast, is everything humans (and AIs) want when writing real programs: syntactic sugar, ergonomic constructs, richer types, conventional syntax, modules, generics, pattern matching, etc. None of these need to complicate the core semantics. Instead, they are desugared into the core via a formally defined lowering pass. This keeps the core pristine while still giving the surface language expressive power and modern ergonomics.

Splitting the language this way gives us four strategic advantages:

Formal validation becomes tractable
Proofs operate on the core only. Because the core is very small, mechanically checking soundness and semantics becomes realistic rather than aspirational.

We can move fast at the surface level
We can iterate on syntax, add sugar, refine modules, extend generics, etc., without disturbing the proof-critical foundation.

The compiler becomes provably correct in layers
If the lowering pass is verified and the core is verified, then the entire language inherits correctness.

Host-language bridges become easier to reason about
Each bridge only needs to correctly implement the small core semantics. Surface constructs never add complexity to the bridge; they reduce to the same small set of primitives.

This split is not a workaround—it's the enabler. It is the key to ensuring that Axis is not merely plausible but provable, and that we can scale semantics across compilers, bridges, and domains without losing correctness.

**Comment by christaylor98** [comment]
## **1. Why a Minimal Core?**

Modern programming languages tend to mix:

* high-level abstractions,
* concurrency primitives,
* mutable state,
* effects,
* modules,
* type inference,
* and runtime behaviors

into a single semantic layer.

This makes the semantics:

* difficult to describe precisely,
* difficult to implement consistently,
* difficult to optimize safely,
* extremely difficult to prove correct or deterministic,
* and impossible for an AI system to model with full confidence.

**Axis Core avoids this entirely.**

It isolates only the *essential computational machinery*:

* values
* tuples
* function abstraction and application
* lexical scope
* rebinding via shadowing
* deterministic evaluation
* total, explicit types
* conditional branching

This gives Axis a foundation that is simultaneously expressive, analyzable, and formally tractable.

---

## **2. Design Principle: “The Core Must Be Provable”**

Axis Core is engineered so that its entire semantics can be:

* stated in a few pages,
* implemented exactly the same across backends,
* encoded in proof assistants like Coq or Lean,
* proven sound (progress + preservation),
* proven deterministic,
* and reasoned about systematically by an AI.

This is only realistically achievable when the kernel avoids:

* side effects
* concurrency
* IO
* mutation
* exceptions
* complex control operators
* type inference
* overloading
* ad-hoc coercions
* type classes
* modules

Those belong at **higher layers** that *translate* into the core.

Axis Core deliberately looks familiar to PL theorists—it resembles a simply-typed λ-calculus with tuples and conditionals. This was not an accident; it is a strategic design decision to maximize formal tractability.

---

## **3. Why Tuples Instead of Records or Enums?**

Records and enums are extremely useful in real-world programs, but they introduce:

* label resolution rules,
* field update rules,
* variant matching and exhaustiveness checking,
* namespacing of constructors,
* higher-order pattern structures.

None of this is required to serve as a mathematical foundation.

Instead:

* **tuples** capture structured data,
* **functions** encode variants (sum types) when needed,
* **syntactic sugar** reintroduces ergonomic forms on top.

By restricting the core to tuples, the language keeps:

* a minimal type algebra,
* a minimal operational semantics,
* a minimal environment model.

Everything else exists at the “surface level,” translating to tuples and functions.

This mirrors how languages like OCaml, Haskell, and PureScript compile their high-level structures into much smaller intermediate calculi.

---

## **4. Why Rebinding (Shadowing) Instead of Mutation?**

Axis Core uses **shadowing**, not mutation:

```axis
let x = 1;
x = x + 1;   // becomes another binding
```

This is not only semantically elegant—it dramatically simplifies proofs.

Shadowing means:

* all values are immutable,
* bindings never change in place,
* environments remain persistent,
* substitution behaves cleanly,
* the semantics has no state,
* the language is referentially transparent.

This enables:

* deterministic evaluation,
* equational reasoning,
* strong optimization guarantees,
* algebraic manipulation of programs,
* ease of symbolic evaluation by AI agents.

Programs *feel* imperative at the surface, but underneath, the semantics is purely functional.

---

## **5. Why No Effects, Async, Tasks, or Spawn?**

Axis Core is meant to be the **trusted kernel**.
Effects such as IO, concurrency, or asynchronous operations introduce:

* nondeterminism,
* interleavings,
* scheduling,
* resource ownership,
* stateful continuations,
* observable real-world behavior.

All of these are incompatible with a minimal, deterministic calculus.

Instead, Axis treats effects as:

### **Definitional extensions**

All high-level primitives like:

* `Task<T>`
* `async`
* `await`
* `spawn`
* IO operations
* network calls
* database queries

are expressed as:

* **thunks** (`Unit -> T`)
* **effect requests** interpreted by a runtime

with a clean translation down to the core calculus.

This separation of layers has deep benefits:

* the core remains provable and deterministic,
* the effect system is pluggable,
* concurrency models can evolve,
* runtimes can optimize independently,
* the semantics of programs remains analyzable even when effects are involved.

This layered approach is inspired by the best parts of:

* algebraic effects and handlers,
* Rust’s async lowering,
* Haskell’s monadic IO model,
* OCaml’s Multicore effect system,
* Koka’s effect typing,
* Scheme’s CPS transformations.

Axis unifies these ideas in a cleaner, AI-first form.

---

## **6. Why a Deterministic Call-by-Value Semantics?**

Determinism is a cornerstone, because:

* it enables simple equational reasoning,
* it allows AI systems to reason predictably,
* it allows replay and verification,
* it avoids the complexity of nondeterministic small-step semantics,
* it makes mechanized proof dramatically more approachable.

Call-by-value is chosen because it:

* maps efficiently to real hardware,
* avoids complexities of call-by-name / lazy semantics,
* works seamlessly with effect encodings,
* matches the majority of mainstream compiled languages,
* simplifies runtime and backend integration.

---

## **7. How Higher-Level Features Build on the Core**

Axis Core does *not* aim to be expressive by itself.
It is not meant to be pleasant or convenient for developers.
The point is **compositional layering**.

### Records

Desugar to tuples.

### Enums

Desugar to tagged tuples or Church encodings.

### Async / Task<T>

Encode as `Unit -> T`.

### Spawn

A runtime-level effect handler invoked from the sugar layer.

### Collections

Desugar to recursive algebraic forms built from tuples and lambdas.

### Modules

Environment packaging over core expressions.

### Pattern Matching

Desugars to `if` + tuple projections.

### Comprehensions

Desugar to higher-order combinators defined in libraries.

Everything lives **above** the core.

The core is merely the “mathematical bedrock” upon which the whole ecosystem stands.

---

## **8. Summary**

Axis Core was chosen because it satisfies three requirements simultaneously:

### **1. It is small enough to prove.**

The calculus is familiar, deterministic, and tractable for formal verification.

### **2. It is powerful enough to encode everything.**

All higher-level constructs—including async/await, tasks, records, enums, modules, IO and concurrency—can be translated into the core.

### **3. It is simple enough for AI systems to reason about.**

With no mutation, no side effects, and predictable evaluation, AI models can analyze, transform, optimize, and reason about Axis programs reliably.

Axis Core is **not** the language users will write most of their programs in; it is the language that:

* compilers target,
* proofs operate on,
* and AI agents understand natively.

**Comment by christaylor98** [comment]
# **1. Diagram: How High-Level Axis Constructs Translate to Axis Core**

This diagram visually shows the *layered architecture* and desugaring paths.
It’s formatted in ASCII for Markdown, but I can also output it as LaTeX TikZ if later needed.

---

## **Axis Translation Pipeline**

```
┌──────────────────────────────────────────────────────────────┐
│                    High-Level Axis Surface                    │
│                                                              │
│  - Records            - Enums            - Pattern Matching  │
│  - Async / Await      - Task<T>          - Spawn             │
│  - Lists & Arrays     - Comprehensions   - Modules           │
│  - Multi-arg funcs    - For-loops        - User-level sugar  │
└───────────────┬──────────────────────────────────────────────┘
                │  (Desugaring / Macro Expansion)
                ▼
┌──────────────────────────────────────────────────────────────┐
│              Axis Mid-Level Canonical Form (A-Normal)        │
│                                                              │
│  - Functions take one argument (tuples encode arity)         │
│  - Records → tuples                                          │
│  - Enums → tagged tuples / Church encodings                  │
│  - Pattern matching → if + tuple projections                 │
│  - Async { e } → (λ():Unit. e')                              │
│  - Await t → t(())                                           │
│  - Spawn async { e } → schedule(λ():Unit. e')                │
│                                                              │
│  NOTE: No new semantics; only syntactic transformation.      │
└───────────────┬──────────────────────────────────────────────┘
                │  (Final Lowering / Type-Preservation Theorem)
                ▼
┌──────────────────────────────────────────────────────────────┐
│                    Axis Core (v0.MIN)                        │
│                                                              │
│   Types: Int, Bool, Unit, T×T×…, T→T                         │
│   Terms: literals, variables, tuples, λx:T.e , e1 e2         │
│   Control: let x:T=e1 in e2, if { } else { }                 │
│   Semantics: deterministic call-by-value                     │
│                                                              │
│   No effects, no concurrency, no mutable state.              │
└───────────────┬──────────────────────────────────────────────┘
                │  (Runtime Interpretation of Effects)
                ▼
┌──────────────────────────────────────────────────────────────┐
│                    Axis Runtime / Effects Layer              │
│                                                              │
│   schedule(t)           → spawn tasks                        │
│   read_file(path)       → host IO                            │
│   network_send(...)     → host networking                    │
│   timers, reactors, event loops                              │
└──────────────────────────────────────────────────────────────┘
```

This diagram makes it visually obvious where the “magic” goes:

* **Zero magic in the core.**
* **All complexity in transparent transformation layers + runtime interpreters.**

---

# **2. Annotated Example: A Real Axis Program Lowered to Axis Core**

We take a realistic program with async, records, enums, and pattern-matching, and show the complete lowering path.

---

## **High-Level Axis Program**

```axis
type User { id: Int, name: String }

enum Result {
  Ok(String),
  Err(Int),
}

async fn fetch_user(id: Int) -> Result {
    let u = User { id: id, name: "Alice" };
    if id > 0 {
        Ok("found")
    } else {
        Err(id)
    }
}

fn main() -> Task<String> {
    let r = await fetch_user(1);
    match r {
        Result::Ok(msg)  => msg,
        Result::Err(code) => "error",
    }
}
```

This program uses:

* records
* enums
* async function
* awaiting
* pattern matching
* implicit multi-arg functions

All of these need lowering.

---

## **Step 1 — Normalize records → tuples**

User:

```axis
User { id: id, name: "Alice" }
```

becomes a 2-tuple:

```
(id, "Alice")
```

And type:

```
User ≜ (Int, String)
```

---

## **Step 2 — Normalize enums → tagged tuples**

Define:

```
Result::Ok(x)  ≜ (0, x)
Result::Err(e) ≜ (1, e)
```

This is a standard sum type encoding.

The match:

```axis
match r {
    Ok(msg)  => msg,
    Err(code) => "error",
}
```

becomes:

```
if (r.1 == 0) {
    let msg: String = r.2 in msg
} else {
    let code: Int = r.2 in "error"
}
```

We stored the tag at index 1; payload at index 2.

---

## **Step 3 — Lower async fn to return a thunk**

Original:

```axis
async fn fetch_user(id: Int) -> Result { body }
```

Becomes:

```axis
fn fetch_user(id: Int) -> Task<Result> {
    |_:Unit| {
        let u:(Int,String) = (id, "Alice");
        if id > 0 {
            (0, "found")     // Ok("found")
        } else {
            (1, id)          // Err(id)
        }
    }
}
```

---

## **Step 4 — Lower await**

```
let r = await fetch_user(1);
```

Becomes:

```
let temp = fetch_user(1) in
let r = temp(()) in
...
```

---

## **Step 5 — Lower multi-arg functions**

```
fetch_user(1)
```

becomes:

```
fetch_user(1)
```

(no change — this function takes one arg already)

But in general:

```
f(a, b, c)
```

→

```
f((a, b, c))
```

---

## **Step 6 — Final Axis Core Form (after block desugaring)**

Below is the **fully lowered deterministic form**, ready for semantics:

```axis
let temp:(Unit -> (Int,String)) =
    fetch_user(1) in

let r:(Int,String) = temp(()) in

if (r.1 == 0) {
    let msg:String = r.2 in msg
} else {
    let code:Int = r.2 in "error"
}
```

Note:

* everything is tuples, lambdas, `let`, `if`, and application.
* async has vanished.
* patterns have vanished.
* enum constructors have vanished.
* records have vanished.
* multi-arg functions have vanished.
* blocks have vanished.

This is pure Axis Core.

**The surface features were never part of the semantics—they were just convenient notation for humans and AI.**

---

# **3. “Core Soundness Theorem” Outline (Whitepaper-Ready)**

This is exactly how soundness theorems are stated in CS papers.
It signals academic legitimacy and shows the language is architected for formal reasoning.

---

# **Axis Core Soundness Theorem (Outline)**

Axis Core is designed to satisfy the standard *type soundness* property of typed λ-calculi.
Type soundness ensures that well-typed programs do not get stuck and that evaluation preserves types.

Axis Core uses deterministic call-by-value operational semantics and a total type system.
We state the standard lemmas and the resulting theorem.

---

## **Definitions**

* `Γ ⊢ e : T` — *typing judgment*
* `e → e'` — *single-step reduction*
* `v` — *value*
* “stuck” — an expression that is not a value and has no reduction rule

---

## **Lemma 1 — Canonical Forms**

If a value `v` has type `T`, then `v` must be one of the canonical constructions for that type.

Examples:

* If `Γ ⊢ v : Int`, then `v` is an integer literal.
* If `Γ ⊢ v : T1 → T2`, then `v` is a lambda `λx:T1. e`.
* If `Γ ⊢ v : (T1,...,Tn)`, then `v` is `(v1,...,vn)` where each `vi` is a value.

This lemma ensures values line up structurally with types.

---

## **Lemma 2 — Substitution**

If:

* `Γ, x:T1 ⊢ e : T2`, and
* `Γ ⊢ v : T1`

then:

* `Γ ⊢ e[x := v] : T2`.

This lemma is essential for the β-reduction rule.

---

## **Lemma 3 — Progress**

If `Γ ⊢ e : T`, then either:

1. `e` is a value, or
2. there exists an expression `e'` such that `e → e'`.

In other words, well-typed programs never get stuck.

---

## **Lemma 4 — Preservation**

If:

* `Γ ⊢ e : T`, and
* `e → e'`

then:

* `Γ ⊢ e' : T`.

This guarantees evaluation never produces a type error if the input was typed.

---

## **Theorem — Type Soundness**

For all expressions `e` and types `T`:

If `Γ ⊢ e : T`, then repeated evaluation of `e` either:

1. results in a value `v` such that `Γ ⊢ v : T`, or
2. diverges (infinite reduction), but
3. **never reaches a stuck state**.

Formally:

> If `Γ ⊢ e : T`, then `e` cannot get stuck under the Axis Core operational semantics.

This is the fundamental safety guarantee of Axis Core.

Nice, this is a perfect time to “ground” Axis Core in a real proof environment.

I’ll give you **both**:

* a **Coq skeleton** for Axis Core, and
* a **Lean 4 skeleton** for Axis Core,

each with:

* syntax (types, terms, values)
* contexts
* typing judgment
* small-step semantics
* *statement stubs* for canonical forms, substitution, progress, preservation

All major theorems will be `Admitted` so you can iteratively fill them in.

---

## 1. Coq Skeleton for Axis Core

Save this as e.g. `AxisCore.v`.

```coq
(*
  Axis Core (v0.MIN) — Coq Skeleton
  ---------------------------------
  - Types: Int, Bool, Unit, tuples, arrows
  - Terms: literals, variables, tuples, lambdas, app, let, if, proj
  - Call-by-value small-step semantics
*)

From Coq Require Import Strings.String.
From Coq Require Import Lists.List.
From Coq Require Import Arith.Arith.
Import ListNotations.

Module AxisCore.

(* ########################################################### *)
(** * Types *)

Inductive ty : Type :=
  | TyInt  : ty
  | TyBool : ty
  | TyUnit : ty
  | TyTuple : list ty -> ty
  | TyArrow : ty -> ty -> ty.

(* ########################################################### *)
(** * Terms *)

(* For a real development you’d likely use de Bruijn indices.
   For now we keep named variables as strings for readability. *)

Definition var := string.

Inductive tm : Type :=
  (* values *)
  | TmInt    : nat -> tm
  | TmBool   : bool -> tm
  | TmUnit   : tm
  | TmTuple  : list tm -> tm
  | TmLam    : var -> ty -> tm -> tm        (* λx:T. e *)

  (* non-values *)
  | TmVar    : var -> tm
  | TmApp    : tm -> tm -> tm               (* e1 e2 *)
  | TmLet    : var -> ty -> tm -> tm -> tm  (* let x:T = e1 in e2 *)
  | TmIf     : tm -> tm -> tm -> tm         (* if cond { e1 } else { e2 } *)
  | TmProj   : tm -> nat -> tm.             (* e.k   (1-based) *)

(* ########################################################### *)
(** * Values *)

Inductive value : tm -> Prop :=
  | V_Int    : forall n, value (TmInt n)
  | V_Bool   : forall b, value (TmBool b)
  | V_Unit   : value TmUnit
  | V_Tuple  : forall vs,
      (forall t, In t vs -> value t) ->
      value (TmTuple vs)
  | V_Lam    : forall x T e,
      value (TmLam x T e).

Hint Constructors value : core.

(* ########################################################### *)
(** * Contexts *)

Definition context := list (var * ty).

Fixpoint lookup (x : var) (Gamma : context) : option ty :=
  match Gamma with
  | [] => None
  | (y,T) :: Gamma' => if String.eqb x y then Some T else lookup x Gamma'
  end.

(* ########################################################### *)
(** * Typing Judgment  Γ ⊢ t : T *)

Reserved Notation "Gamma '|-' t ':' T" (at level 40).

Inductive has_type : context -> tm -> ty -> Prop :=
  | T_Int :
      forall Gamma n,
        Gamma |- TmInt n : TyInt

  | T_Bool :
      forall Gamma b,
        Gamma |- TmBool b : TyBool

  | T_Unit :
      forall Gamma,
        Gamma |- TmUnit : TyUnit

  | T_Var :
      forall Gamma x T,
        lookup x Gamma = Some T ->
        Gamma |- TmVar x : T

  | T_Tuple :
      forall Gamma es Ts,
        Forall2 (has_type Gamma) es Ts ->
        Gamma |- TmTuple es : TyTuple Ts

  | T_Proj :
      forall Gamma e Ts k T,
        Gamma |- e : TyTuple Ts ->
        nth_error Ts (k-1) = Some T ->
        Gamma |- TmProj e k : T

  | T_Lam :
      forall Gamma x T1 e T2,
        ( (x,T1) :: Gamma) |- e : T2 ->
        Gamma |- TmLam x T1 e : TyArrow T1 T2

  | T_App :
      forall Gamma e1 e2 T1 T2,
        Gamma |- e1 : TyArrow T1 T2 ->
        Gamma |- e2 : T1 ->
        Gamma |- TmApp e1 e2 : T2

  | T_Let :
      forall Gamma x T1 e1 e2 T2,
        Gamma |- e1 : T1 ->
        ((x,T1) :: Gamma) |- e2 : T2 ->
        Gamma |- TmLet x T1 e1 e2 : T2

  | T_If :
      forall Gamma econd ethen eelse T,
        Gamma |- econd : TyBool ->
        Gamma |- ethen : T ->
        Gamma |- eelse : T ->
        Gamma |- TmIf econd ethen eelse : T

where "Gamma '|-' t ':' T" := (has_type Gamma t T).

(* ########################################################### *)
(** * Substitution *)

(* Capture-avoiding substitution [e[x := s]] (sketch only) *)

Fixpoint subst (x : var) (s : tm) (t : tm) : tm :=
  match t with
  | TmInt n      => TmInt n
  | TmBool b     => TmBool b
  | TmUnit       => TmUnit
  | TmTuple es   => TmTuple (map (subst x s) es)
  | TmVar y      => if String.eqb x y then s else t
  | TmLam y T e  =>
      if String.eqb x y
      then TmLam y T e        (* shadowing: do not descend *)
      else TmLam y T (subst x s e)
  | TmApp e1 e2  => TmApp (subst x s e1) (subst x s e2)
  | TmLet y T e1 e2 =>
      let e1' := subst x s e1 in
      if String.eqb x y
      then TmLet y T e1' e2
      else TmLet y T e1' (subst x s e2)
  | TmIf ec et ee =>
      TmIf (subst x s ec) (subst x s et) (subst x s ee)
  | TmProj e k   => TmProj (subst x s e) k
  end.

(* ########################################################### *)
(** * Small-step Semantics *)

Reserved Notation "t1 '-->' t2" (at level 40).

Inductive step : tm -> tm -> Prop :=

  (* Application *)
  | ST_App1 :
      forall e1 e1' e2,
        e1 --> e1' ->
        TmApp e1 e2 --> TmApp e1' e2

  | ST_App2 :
      forall v1 e2 e2',
        value v1 ->
        e2 --> e2' ->
        TmApp v1 e2 --> TmApp v1 e2'

  | ST_AppLam :
      forall x T e v2,
        value v2 ->
        TmApp (TmLam x T e) v2 --> subst x v2 e

  (* Let-binding *)
  | ST_Let1 :
      forall x T e1 e1' e2,
        e1 --> e1' ->
        TmLet x T e1 e2 --> TmLet x T e1' e2

  | ST_LetVal :
      forall x T v e2,
        value v ->
        TmLet x T v e2 --> subst x v e2

  (* If *)
  | ST_If :
      forall econd econd' ethen eelse,
        econd --> econd' ->
        TmIf econd ethen eelse --> TmIf econd' ethen eelse

  | ST_IfTrue :
      forall ethen eelse,
        TmIf (TmBool true) ethen eelse --> ethen

  | ST_IfFalse :
      forall ethen eelse,
        TmIf (TmBool false) ethen eelse --> eelse

  (* Tuples *)
  | ST_Tuple :
      forall es es' e es_before es_after,
        es = es_before ++ e :: es_after ->
        es' = es_before ++ es_after ->
        e --> e ->
        TmTuple es --> TmTuple es  (* TODO: refine left-to-right rule *)
(* NOTE: For a real development, you'd encode left-to-right tuple stepping
         more carefully; here we leave it as a placeholder. *)

  (* Projection *)
  | ST_Proj1 :
      forall e e' k,
        e --> e' ->
        TmProj e k --> TmProj e' k

  | ST_ProjTuple :
      forall vs k v,
        value (TmTuple vs) ->
        nth_error vs (k-1) = Some v ->
        TmProj (TmTuple vs) k --> v

where "t1 '-->' t2" := (step t1 t2).

(* ########################################################### *)
(** * Metatheory Stubs *)

Lemma canonical_form_int :
  forall v,
    value v ->
    forall Gamma,
      Gamma |- v : TyInt ->
      exists n, v = TmInt n.
Proof.
Admitted.

Lemma substitution_preserves_typing :
  forall Gamma x U e v T,
    ( (x,U) :: Gamma) |- e : T ->
    Gamma |- v : U ->
    Gamma |- subst x v e : T.
Proof.
Admitted.

Lemma progress :
  forall e T,
    [] |- e : T ->
    value e \/ exists e', e --> e'.
Proof.
Admitted.

Lemma preservation :
  forall Gamma e e' T,
    Gamma |- e : T ->
    e --> e' ->
    Gamma |- e' : T.
Proof.
Admitted.

Theorem soundness :
  forall e T,
    [] |- e : T ->
    (* multi-step closure of step *)
    True.
(* For a full development, define multi-step, then show:
   e reduces to a value of type T or diverges, but never gets stuck. *)
Proof.
Admitted.

End AxisCore.
```

Notes:

* Tuple stepping rule is left as a TODO-style placeholder; for a real development you’d define a more precise left-to-right rule (e.g. with an index).
* I’ve intentionally kept the skeleton readable rather than fully polished; you can refine as you go.

---

## 2. Lean 4 Skeleton for Axis Core

Save this as e.g. `AxisCore.lean`.

```lean
/-
  Axis Core (v0.MIN) — Lean 4 Skeleton
  ------------------------------------
  - Types: Int, Bool, Unit, tuples, arrows
  - Terms: literals, variables, tuples, lambdas, app, let, if, proj
  - Call-by-value small-step semantics
-/

namespace AxisCore

open List

/-- Types of Axis Core. -/
inductive Ty where
  | int  : Ty
  | bool : Ty
  | unit : Ty
  | tuple : List Ty → Ty
  | arrow : Ty → Ty → Ty
deriving Repr, DecidableEq

/-- Variable names (for skeleton purposes only). -/
abbrev Var := String

/-- Terms of Axis Core. -/
inductive Tm where
  | int   : Nat → Tm
  | bool  : Bool → Tm
  | unit  : Tm
  | tuple : List Tm → Tm
  | lam   : Var → Ty → Tm → Tm
  | var   : Var → Tm
  | app   : Tm → Tm → Tm
  | letin : Var → Ty → Tm → Tm → Tm
  | ite   : Tm → Tm → Tm → Tm
  | proj  : Tm → Nat → Tm
deriving Repr, DecidableEq

/-- Values in Axis Core. -/
inductive Value : Tm → Prop where
  | vInt    (n : Nat) : Value (.int n)
  | vBool   (b : Bool) : Value (.bool b)
  | vUnit   : Value .unit
  | vTuple  (vs : List Tm) :
      (∀ t, t ∈ vs → Value t) →
      Value (.tuple vs)
  | vLam    (x : Var) (T : Ty) (e : Tm) :
      Value (.lam x T e)

attribute [simp] Value.vInt Value.vBool Value.vUnit Value.vTuple Value.vLam

/-- Typing context Γ. -/
abbrev Ctx := List (Var × Ty)

def lookup (x : Var) : Ctx → Option Ty
  | [] => none
  | (y,T) :: Γ =>
    if x = y then some T else lookup x Γ

/-- Typing judgment Γ ⊢ e : T. -/
inductive HasType : Ctx → Tm → Ty → Prop where
  | tInt :
      ∀ Γ n, HasType Γ (.int n) .int
  | tBool :
      ∀ Γ b, HasType Γ (.bool b) .bool
  | tUnit :
      ∀ Γ, HasType Γ .unit .unit
  | tVar :
      ∀ Γ x T,
        lookup x Γ = some T →
        HasType Γ (.var x) T
  | tTuple :
      ∀ Γ es Ts,
        (List.Forall₂ (HasType Γ) es Ts) →
        HasType Γ (.tuple es) (.tuple Ts)
  | tProj :
      ∀ Γ e Ts (k : Nat) T,
        HasType Γ e (.tuple Ts) →
        Ts.get? (k-1) = some T →
        HasType Γ (.proj e k) T
  | tLam :
      ∀ Γ x T1 e T2,
        HasType ((x,T1) :: Γ) e T2 →
        HasType Γ (.lam x T1 e) (.arrow T1 T2)
  | tApp :
      ∀ Γ e1 e2 T1 T2,
        HasType Γ e1 (.arrow T1 T2) →
        HasType Γ e2 T1 →
        HasType Γ (.app e1 e2) T2
  | tLet :
      ∀ Γ x T1 e1 e2 T2,
        HasType Γ e1 T1 →
        HasType ((x,T1) :: Γ) e2 T2 →
        HasType Γ (.letin x T1 e1 e2) T2
  | tIte :
      ∀ Γ econd ethen eelse T,
        HasType Γ econd .bool →
        HasType Γ ethen T →
        HasType Γ eelse T →
        HasType Γ (.ite econd ethen eelse) T

/-- Substitution [e[x := s]]. (Skeleton version.) -/
def subst (x : Var) (s : Tm) : Tm → Tm
  | .int n      => .int n
  | .bool b     => .bool b
  | .unit       => .unit
  | .tuple es   => .tuple (es.map (subst x s))
  | .var y      => if x = y then s else .var y
  | .lam y T e  =>
      if x = y then .lam y T e else .lam y T (subst x s e)
  | .app e1 e2  => .app (subst x s e1) (subst x s e2)
  | .letin y T e1 e2 =>
      let e1' := subst x s e1
      if x = y then .letin y T e1' e2 else .letin y T e1' (subst x s e2)
  | .ite ec et ee =>
      .ite (subst x s ec) (subst x s et) (subst x s ee)
  | .proj e k   => .proj (subst x s e) k

/-- Small-step relation e → e'. -/
inductive Step : Tm → Tm → Prop where
  -- Application
  | app₁ :
      ∀ e1 e1' e2,
        Step e1 e1' →
        Step (.app e1 e2) (.app e1' e2)
  | app₂ :
      ∀ v1 e2 e2',
        Value v1 →
        Step e2 e2' →
        Step (.app v1 e2) (.app v1 e2')
  | appLam :
      ∀ x T e v2,
        Value v2 →
        Step (.app (.lam x T e) v2) (subst x v2 e)

  -- Let
  | let₁ :
      ∀ x T e1 e1' e2,
        Step e1 e1' →
        Step (.letin x T e1 e2) (.letin x T e1' e2)
  | letVal :
      ∀ x T v e2,
        Value v →
        Step (.letin x T v e2) (subst x v e2)

  -- If
  | ite₁ :
      ∀ econd econd' ethen eelse,
        Step econd econd' →
        Step (.ite econd ethen eelse) (.ite econd' ethen eelse)
  | iteTrue :
      ∀ ethen eelse,
        Step (.ite (.bool true) ethen eelse) ethen
  | iteFalse :
      ∀ ethen eelse,
        Step (.ite (.bool false) ethen eelse) eelse

  -- Projection
  | proj₁ :
      ∀ e e' k,
        Step e e' →
        Step (.proj e k) (.proj e' k)
  | projTuple :
      ∀ vs k v,
        Value (.tuple vs) →
        vs.get? (k-1) = some v →
        Step (.proj (.tuple vs) k) v

-- TODO: add a more precise tuple stepping rule if you want full left-to-right semantics

/-- Canonical forms, substitution, progress, preservation — stubs. -/

lemma canonical_int :
  ∀ v Γ,
    Value v →
    HasType Γ v Ty.int →
    ∃ n, v = .int n := by
  admit

lemma substitution_preserves_typing :
  ∀ Γ x U e v T,
    HasType ((x,U) :: Γ) e T →
    HasType Γ v U →
    HasType Γ (subst x v e) T := by
  admit

lemma progress :
  ∀ e T,
    HasType [] e T →
    Value e ∨ ∃ e', Step e e' := by
  admit

lemma preservation :
  ∀ Γ e e' T,
    HasType Γ e T →
    Step e e' →
    HasType Γ e' T := by
  admit

theorem soundness (e : Tm) (T : Ty) :
  HasType [] e T →
  True := by
  -- For a full development, define multi-step and show
  -- well-typed programs do not get stuck.
  intro _
  trivial

end AxisCore
```

---

## 3. How you can use this

* Drop `AxisCore.v` into a `coq/` folder in your repo,

  * add a minimal `_CoqProject` or dune file,
  * and you’re already 30–40% of the way to a real mechanization.

* Drop `AxisCore.lean` into a `lean/` folder,

  * add a `lakefile.lean` if you want Lean 4 + Lake,
  * and you have a parallel Lean line of attack for potential collaborators.

**Comment by christaylor98** [comment]
# **Design Philosophy: AI-Native Syntax**

Axis is designed around a simple premise: **AI systems now write and read code as often as humans do.**
A modern language should therefore optimize not only for human comprehension and formal soundness, but also for the capabilities and constraints of large language models (LLMs).

Axis introduces the notion of **AI-native syntax**—a surface language intentionally shaped to align with how AI models reason, compose, and transform programs.
This is not a cosmetic layer; it is a fundamental architectural decision that permeates the entire language.

Axis combines:

* A **minimal, deterministic core calculus** suited for proofs and backend compilation.
* A **rich but well-disciplined sugar layer** designed for AI reasoning and generation.
* A **macro-based lowering pipeline** that connects the two without semantic leakage.

The result is a language that is simultaneously *machine verifiable* and *machine generable*.

---

## **1. AI systems think at the level of intent, not operational semantics**

Human developers and language theorists can reason in terms of:

* lambda abstraction,
* tuple destructuring,
* substitution,
* evaluation strategies.

But LLMs do not operate at that level.

They operate in a representational space where meaning is encoded through **statistical structure and token-level patterns**.
LLMs understand constructs like:

* `async`
* `await`
* `spawn`
* `match`
* `Some(x)`
* `user.name`

far more reliably than transformations such as:

* CPS conversion
* Church encodings
* thunk creation (`Unit -> T`)
* let-binding shadowing chains
* tuple projection via indices

Axis leans into this reality.

The surface language includes **precisely those constructs that LLMs respond to best**, and excludes forms that increase cognitive load or require deep operational interpretation.

---

## **2. AI-native constructs preserve semantic structure**

Many languages express high-level semantics only implicitly or indirectly.
For example:

* JavaScript’s promises hide concurrency inside chaining.
* Python generators hide control flow in stack frames.
* C++ futures require template metaprogramming.
* Haskell monads require multiple layers of abstraction to express simple sequences.

Axis is instead explicit:

| Axis Construct     | High-Level Semantics                   |
| ------------------ | -------------------------------------- |
| `async { ... }`    | Introduces an asynchronous computation |
| `await x`          | Suspends until result is available     |
| `spawn f()`        | Schedules concurrent work              |
| `Some(x)` / `None` | Simple, predictable sum types          |
| `match`            | Declarative structural branching       |
| `record.field`     | Direct and transparent access          |

These constructs map cleanly to the representational pathways models have learned from vast corpora of Python, Rust, TypeScript, Swift, Kotlin, and modern ML-family languages.

Semantic alignment is deliberate:
**When syntax lines up with an LLM’s internal structures, generation quality increases dramatically.**

---

## **3. Separation of concerns: AI sees sugar, the compiler sees core**

Axis does not force AI systems (or humans) to express computation in the minimal core calculus.
Instead:

1. **AI interacts exclusively with the sugar layer**, which looks like a modern, expressive language.
2. **The sugar layer expands deterministically into Axis Core**, a tiny λ-calculus with tuples, `let`, and `if`.
3. **The core is fully mechanizable**, allowing proofs of soundness and determinism.

This separation allows classic compiler guarantees *without* limiting AI creativity.

Sugar shows intent.
Core defines semantics.
Neither compromises the other.

---

## **4. Tokens matter: AI uses them as cognitive anchors**

LLMs do not reason with ASTs.
They reason with **tokens and token transitions**.

Certain keywords act as strong semantic anchors:

* `async` activates concurrency reasoning.
* `await` activates dependency sequencing.
* `match` activates structural decomposition patterns.
* `Some(x)` activates option-type reasoning.
* `spawn` activates concurrency planning.
* `{ x for x in xs }` activates comprehension patterns.

Axis deliberately includes these as first-class surface constructs because they invoke **meaning-rich patterns** in the AI’s internal state.

They guide the model into the correct conceptual region.

Removing them and replacing them with core primitives like:

```
t(())
|_:Unit|
(p.1, p.2)
```

would destroy the model’s ability to reason about the code.

Axis provides the vocabulary the AI expects.

---

## **5. Familiarity increases correctness**

Language models generalize from the languages they were trained on.
Axis does not attempt to be exotic or theoretical at the surface level.
Instead, it adopts:

* Rust-like enums
* ML-like pattern matching
* Python-like async/await
* Kotlin/Swift-like records
* Haskell-like comprehensions
* JavaScript-like field access
* Rust/Python-like multi-argument functions

This strategically positions Axis as a language where:

* AI produces fewer hallucinations
* AI errors are easier to predict
* AI-generated code resembles familiar patterns
* humans and AI cooperate smoothly

Familiarity is not laziness—it is engineering.

---

## **6. The sugar layer is fully deterministic and formally defined**

Axis does *not* repeat the history of ad-hoc sugar in languages like:

* Python
* JavaScript
* C++
* PHP

Instead, Axis sugar is:

* **structured**
* **hygienic**
* **context-free**
* **deterministic**
* **type-preserving**
* **semantics-preserving**

This gives you:

* predictable AI behavior
* predictable lowering
* correct type inference
* a stable specification
* no edge cases
* no special forms needing semantic hacks

AI thrives when the rules are simple, predictable, and uniform.

Axis gives the AI just that.

---

## **7. AI-native syntax does not compromise formal verification**

This is the most important philosophical breakthrough:

> Axis syntax is designed for AI,
> Axis semantics are designed for proofs.

The macro layer completely decouples user-facing syntax from core semantics.

This is *the best of both worlds*:

* Easy for AI to generate
* Easy for humans to read
* Easy for compilers to translate
* Easy for mathematicians to reason about
* Easy to embed in verification workflows
* Easy to extend without breaking the core calculus

No language today has such a clean bifurcation of purpose and structure.

Axis is the first.

---

## **8. AI-native syntax is future-proof**

Because sugar is simply macros:

* new constructs can be added without breaking the core
* new effect systems can be layered on
* distributed concurrency can be encoded
* actor models can be added
* UI DSLs can be embedded
* domain-specific syntaxes can be created

All without changing the underlying calculus.

AI improves at an astonishing pace.
Axis is designed to evolve with it.

---

# **Summary**

Axis adopts **AI-native syntax** because:

* LLMs think in high-level constructs, not λ-calculus
* tokens act as semantic anchors
* explicit intent reduces hallucinations
* familiarity increases correctness
* semantic structure improves generation quality
* deterministic sugar keeps the language clean
* macro lowering preserves formal rigor
* separates “language for humans/AI” from “language for machines/proofs”

Axis is the first language designed **simultaneously** for:

* formal verification
* high-quality AI code generation
* human readability
* runtime efficiency
* ecosystem extensibility

This design philosophy is not a compromise.
It is a convergence.

Axis is what happens when modern AI reasoning, PL theory, and industrial programming concerns all align into a unified semantic architecture.

**Comment by christaylor98** [comment]
# **Why Axis Is New**

Programming languages have traditionally been designed for two audiences:
**humans** who write code and **compilers** that execute it.
Axis introduces a third participant that fundamentally changes the design space:

> **AI systems that read, write, transform, and reason about code.**

Axis is the first language intentionally designed to serve all three.

Rather than adding features incrementally to existing languages, Axis rethinks the entire structure of a programming language from first principles. What emerges is a language architecture that is *simultaneously*:

* formally minimal,
* semantically rigorous,
* expressively rich for humans,
* and optimally aligned with how modern AI models actually reason.

This combination has not appeared in any previous programming language.
Axis brings several new ideas to the table.

---

## **1. AI-Native Syntax**

Axis is the first programming language whose surface syntax is designed using **AI cognitive criteria**—not only human ergonomics or compiler constraints.

Modern AI models have internalized consistent patterns from Python, JavaScript, Rust, TypeScript, Swift, and Haskell. These patterns include:

* `async` / `await`
* `spawn` and structured concurrency
* records and field access
* enums and pattern matching
* list comprehensions
* multi-argument functions

Axis adopts these constructs because they activate stable, well-understood reasoning pathways in large language models.
They are **semantic anchors** for AI.

This makes Axis the first language intentionally crafted to:

* reduce AI hallucinations,
* improve AI-generated correctness,
* and increase AI understanding of program structure.

No previous language has taken AI cognition as a first-class design constraint.

---

## **2. A Fully Formalized Surface Macro Layer**

Many languages contain syntactic sugar, but this sugar is usually:

* ad-hoc,
* historically accidental,
* only partially documented,
* and often semantically inconsistent.

Axis does something new:

> **Every high-level construct in the surface language is a deterministic, fully specified macro that lowers into the core calculus.**

No exceptions. No hidden semantics.
This gives Axis:

* predictable behavior,
* clear mental models for humans and AI,
* and a fully mechanizable lowering pipeline.

The surface language can be expressive and modern without compromising the underlying mathematical simplicity.

This is the first time a modern PL design has treated the entire surface language as a *provable macro calculus*.

---

## **3. A Minimal Core Calculus Designed for Proof *and* AI**

Axis Core is intentionally tiny—just:

* lambda abstraction
* tuples
* let-binding
* conditionals
* deterministic evaluation

This makes it:

* easy to encode in Coq or Lean,
* easy to reason about formally,
* stable across versions,
* and a universal target for lowering rich syntax.

But critically:

> **Axis Core is also designed for AI transformation.**

Because the core is so small, AI models can:

* reason about its semantics,
* perform mechanical code transformations,
* analyze desugared programs,
* and generate proofs or proof sketches.

No previous language’s core calculus has been shaped with AI-symbiosis in mind.

---

## **4. AI-Guided Language Evolution**

Axis is the first language designed to evolve **empirically**, based on AI performance metrics.

Because surface constructs are pure macros:

* new constructs can be added safely,
* confusing constructs can be removed,
* syntactic variants can be compared experimentally,
* and the language itself can be optimized using AI feedback loops.

This allows Axis to do something unprecedented:

> **Improve itself over time based on how well AI systems can understand and generate programs written in it.**

This transforms language design from an artisanal craft into an evidence-driven cycle that incorporates AI behavior directly into the evolution of the language.

---

## **5. Structured Concurrency and Effects as Pure Syntax**

Languages have struggled for decades to reconcile:

* concurrency,
* async workflows,
* stateful operations,
* effects,
* and deterministic reasoning.

Axis takes a new approach:
**All concurrency constructs (`async`, `await`, `spawn`) are sugar.**
They compile deterministically into pure core terms (thunks + effect handlers).

This gives Axis:

* predictable concurrency semantics,
* the ability to formally reason about async code,
* and an AI-facing syntax that is friendly and familiar.

No existing language provides concurrency constructs that are simultaneously:

* syntactically rich,
* deterministically lowering,
* and fully decoupled from core semantics.

---

## **6. Clean Separation of Semantics and Expression**

Axis makes a strict distinction:

* **Semantics = Core** (minimal, formal, provable, stable)
* **Expression = Surface** (rich, ergonomic, AI-native, flexible)
* **Execution = Runtime** (foreign operations, effects, scheduling)

This separation is unusually clean and deliberate.
It allows Axis to support:

* formal verification,
* AI code generation,
* human readability,
* fast runtime execution,

without forcing trade-offs between them.

Other languages have portions of this separation.
Axis is the first to enforce it as a foundational principle.

---

## **7. The First Language Designed for Machine-Generated Proofs**

Because Axis Core is minimal and deterministic, and because every surface construct has explicit lowering rules, Axis creates the first environment where:

* AI can generate proofs about programs,
* proof assistants can verify them mechanically,
* AI can suggest refactorings that preserve semantics,
* and the entire pipeline becomes *machine-driven*.

Axis thus serves as a bridge between:

* symbolic proof systems,
* AI code generators,
* compiler semantics.

This triad has never been unified before.

---

# **Summary: What Makes Axis New**

| Dimension                                       | Existing Languages  | Axis                    |
| ----------------------------------------------- | ------------------- | ----------------------- |
| Designed for AI reasoning                       | ✖ No                | ✔ Yes                   |
| Fully formal macro-sugar layer                  | ✖ Rare / incomplete | ✔ Total & deterministic |
| Core calculus optimized for proofs *and* AI     | ✖ No                | ✔ Yes                   |
| AI-driven language evolution                    | ✖ No                | ✔ Yes                   |
| Concurrency as pure sugar                       | ✖ No                | ✔ Yes                   |
| Clean semantic/expression/runtime separation    | ✖ Partial           | ✔ Complete              |
| Machine-generated proofs integrated into design | ✖ No                | ✔ Yes                   |

Axis is not an incremental improvement.
It is a **fundamentally new kind of language**, engineered for a world where:

* humans,
* compilers,
* proof systems,
* and AI models

all participate in programming.

Axis is the first language to embrace that world deliberately.
